US06172057B2
2-(4-Fluoro-benzenesulfonyl)-2-but-2-ynyl-hex-4-ynoic acid hydroxyamide was prepared according to the method as outlined in Example 1. Starting from 2-(4-fluoro-benzenesulfonyl)-2-but-2-ynyl-hex-4-ynoic acid (0.26 g, 0.81 mmol) and hydroxylamine hydrochloride (0.70 g, 10 mmol), 0.21 g of the product was isolated. Yield 77%; white solid; mp 161-163° C.; MS:338.1(M+H)+; 1H NMR (300 MHz, DMSO-d6) δ 1.67 (s, 6H), 2.80-3.10 (m, 4H), 7.51 (dd, J=9.0, 9.0 Hz, 2H), 7.87 (m, 2H), 9.26 (brs, 1H), 10.95 (brs, 1H); IR (KBr, cm−1): 3336 s, 3245 m, 1681 s, 1589 m, 1493 m;

reactant | 2-(4-fluoro-benzenesulfonyl)-2-but-2-ynyl-hex-4-ynoic acid | 0.81 mmol, 0.26 g | FC1=CC=C(C=C1)S(=O)(=O)C(C(=O)O)(CC#CC)CC#CC | C16H15FO4S
reactant | hydroxylamine hydrochloride | 10 mmol, 0.70 g | Cl.NO
product | 2-(4-Fluoro-benzenesulfonyl)-2-but-2-ynyl-hex-4-ynoic acid hydroxyamide | Yield 77% | ONC(C(CC#CC)(CC#CC)S(=O)(=O)C1=CC=C(C=C1)F)=O | C16H16FNO4S
